*model = BSIMSOI (FD)
*Berkeley Spice Compatibility 
*
* SOI NMOSFET, floating body simulation

vd d 0 dc 1.5
vs s 0 dc 0
ve e 0 dc 0
vg g 0 dc 3


m1 d g s e n1 w=10u l=0.25u

.option gmin=1e-25 itl1=500 noacct
.dc vd 0 3 0.01 vg 0.5 3 0.5
.print dc v(g), i(vs)
.include nmosfd.mod

